US09447450B2
7-Hydroxynaphtho[2,1-d]thiazole-2-carbonitrile
7-Methoxynaphtho[2,1-d]thiazole-2-carbonitrile (88 mg, 0.366 mmol) was suspended in 3 g of pyridine hydrochloride salt and sealed in a 5-mL microwave vial containing a stir bar. The mixture was irradiated at 220° C. for 25 minutes (min), then taken up in 1 N HCl and extracted three times with a mixture of DCM and EtOAc. The concentrated residue was purified by silica gel chromatography. 1H NMR (CD2Cl2) d 8.10 (d, 1H); 8.03 (d, 1H); 7.88 (d, 1H); 7.39 (d, 1H); 7.31 (dd, 1H);

reactant | 7-Methoxynaphtho[2,1-d]thiazole-2-carbonitrile | 0.366 mmol, 88 mg | COC=1C=C2C=CC=3N=C(SC3C2=CC1)C#N | C13H8N2OS
solvent | pyridine hydrochloride salt | 3 g | Cl.N1=CC=CC=C1
solvent | HCl | 1 N | Cl | ClH
product | 7-Hydroxynaphtho[2,1-d]thiazole-2-carbonitrile | OC=1C=C2C=CC=3N=C(SC3C2=CC1)C#N | C12H6N2OS
